### PR TITLE
[Merged by Bors] - feat: polar coords integral in a normed space

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #7690 
- [x] depends on: #7691 
- [x] depends on: #7692 
- [x] depends on: #7689 
- [x] depends on: #7679 
- [x] depends on: #7653
- [x] depends on: #8073

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/HaarToSphere.lean [hunk 1]
```diff
@@ -0,0 +1,154 @@
...
+      (Homeomorph.measurableEmbedding _)).comap_apply,
+    image_comp, Homeomorph.image_symm, univ_prod, ← Set.prod_eq, nsmul_eq_mul, toSphere_apply_aux]
+
+theorem toSphere_apply_univ' : μ.toSphere univ = dim E * μ (ball 0 1 \ {0}) := by
+  rw [μ.toSphere_apply' .univ, image_univ, Subtype.range_coe, Ioo_smul_sphere_zero] <;> simp
+
+variable [μ.IsAddHaarMeasure]
+
+@[simp]
+theorem toSphere_apply_univ [Nontrivial E] : μ.toSphere univ = dim E * μ (ball 0 1) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Constructions/HaarToSphere.lean:69]: You shouldn't need `[Nontrivial E]` here.

**Review by sgouezel — COMMENTED** [review]
LGTM, thanks!
bors d+

**Comment by urkud** [comment]
bors merge
